** sch_path: /foss/designs/lab_2/lab2.sch
**.subckt lab2
M1 net2 net1 VDD VDD pmos w=WDAC l=LDAC
M2 net1 net1 VDD VDD pmos w=W_DAC l=L_DAC
I0 net1 0 I_DAC
E1 net2 0 net1 0 1.0
V1 VDD 0 VDD
**** begin user architecture code

.include $PDK_ROOT/gf180mcuD/libs.tech/ngspice/design.ngspice tt


.param W_DAC=10u L_DAC=1u I_DAC=10u


.control
  save all
  op
  write lab2.raw
  show all
.endc

**** end user architecture code
**.ends
.end
